US05663297
A diester such as H-Gly-Asp(OtBu)-Val-OtBu can be prepared by condensing Z-Asp(OtBu)-OH and H-Val-OtBu to give Z-Asp(OtBu)-Val-OtBu, hydrogenolyzing the latter, coupling the resulting H-Asp(OtBu)-Val-OtBu with Z-Gly-OSu to give Z-Gly-Asp(OtBu)-Val-OtBu and hydrogenolyzing the latter.

reactant | H-Gly-Asp(OtBu)-Val-OtBu | NCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C | C19H35N3O6
reactant | Z-Asp(OtBu)-OH | N([C@@H](CC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C16H21NO6
reactant | H-Val-OtBu | N[C@@H](C(C)C)C(=O)OC(C)(C)C | C9H19NO2
product | Z-Asp(OtBu)-Val-OtBu | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C25H38N2O7
